US04552866
(D) N-[(3S)-3-Amino-2-hydroxy-4-phenylbutyl]-L-phenylalanine, dihydrochloride
To a solution of N-[(3S)-3-[[(Phenylmethoxy)carbonyl]amino]-2-hydroxy-4-phenylbutyl]-L-phenylalanine, phenylmethyl ester (1.14 g, 2.06 mmol) in 30 ml of 95% ethanol was added 4.2 ml of 1N hydrogen chloride and 250 mg of 10% palladium on carbon catalyst. The reaction mixture was stirred at room temperature under an atmosphere of hydrogen. A white precipitate which separated upon addition of the aqueous hydrogen chloride redissolved as the reaction proceeded. After 17 hours, the catalyst was filtered and the solvent was evaporated. Trituration with methanol-ether afforded 531 mg of the title compound as a white solid, melting point 147°-163° C. The 1H-NMR showed an approximately 1:1 mixture of alcohol isomers. Evaporation of the filtrate from the trituration gave 0.21 g of material which was enriched in one of the diastereomers.

reactant | N-[(3S)-3-[[(Phenylmethoxy)carbonyl]amino]-2-hydroxy-4-phenylbutyl]-L-phenylalanine, phenylmethyl ester | 2.06 mmol, 1.14 g | C1(=CC=CC=C1)COC(=O)N[C@H](C(CN[C@@H](CC1=CC=CC=C1)C(=O)OCC1=CC=CC=C1)O)CC1=CC=CC=C1 | C34H36N2O5
reactant | hydrogen chloride | 1N, 4.2 ml | Cl | ClH
solvent | ethanol | 30 ml | C(C)O | C2H6O
catalyst | palladium on carbon | 250 mg | [Pd] | Pd
product | N-[(3S)-3-Amino-2-hydroxy-4-phenylbutyl]-L-phenylalanine, dihydrochloride | 531 mg | Cl.Cl.N[C@H](C(CN[C@@H](CC1=CC=CC=C1)C(=O)O)O)CC1=CC=CC=C1 | InChI=1S/C19H24N2O3.2ClH/c20-16(11-14-7-3-1-4-8-14)18(22)13-21-17(19(23)24)12-15-9-5-2-6-10-15;;/h1-10,16-18,21-22H,11-13,20H2,(H,23,24);2*1H/t16-,17-,18?;;/m0../s1
